US06809110B2
A mixture of 150 mg of [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester (0.59 mmol), 190 mg of 2-(4-tert-butyl-phenyl)-4-chloromethyl-thiazole (0.71 mmol) and 325 mg of cesium carbonate (1 mmol) in 5 ml of acetonitrile was stirred at 60° C. for 1 h. The solvent was then evaporated and the residue obtained was chromatographed on silicagel using a 98:2 (v/v) mixture of dichloromethane and diethyl ether as the eluent. Thus, 150 mg (52% of theory) of [rac]-3-{4-[2-(4-tert-butyl-phenyl)-thiazol-4-ylmethoxy]-3-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester was obtained as a colorless viscous oil.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester | 0.59 mmol, 150 mg | C(C)OC(C(CC1=CC(=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 2-(4-tert-butyl-phenyl)-4-chloromethyl-thiazole | 0.71 mmol, 190 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(N1)CCl | C14H16ClNS
reactant | cesium carbonate | 1 mmol, 325 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | [rac]-3-{4-[2-(4-tert-butyl-phenyl)-thiazol-4-ylmethoxy]-3-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester | 150 mg, 52% | C(C)OC(C(CC1=CC(=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(C)(C)C)C)OCC)=O | C28H35NO4S
